US08252931B2
To the title B compound, 3-cyclopentyl-2-phenylpropionic acid (3.1 g, 14.2 mmol) is added 10 mL of thionyl chloride and one drop of DMF. The reaction mixture is stirred at ambient temperature for 2 h. The excess thionyl chloride is evaporated and the residue is twice treated with toluene and evaporated to yield 3-cyclopentyl-2-phenylpropionyl chloride as an orange-yellow oil which is selected as such without further purification.

reactant | 3-cyclopentyl-2-phenylpropionic acid | 14.2 mmol, 3.1 g | C1(CCCC1)CC(C(=O)O)C1=CC=CC=C1 | C14H18O2
reactant | thionyl chloride | 10 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
product | 3-cyclopentyl-2-phenylpropionyl chloride | C1(CCCC1)CC(C(=O)Cl)C1=CC=CC=C1 | C14H17ClO
